US07518002B2
Synthesis of Fluorescein
A mixture comprising 55 g of resorcinol, 30 g of phthalic anhydride, 2 g of potassium hydrogen sulfate and 500 ml of methyl benzoate is brought to 200° C. for 6 hours. After cooling, the red crystals of crude fluorescein are washed with acetone and dried.

reactant | resorcinol | 55 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | phthalic anhydride | 30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | potassium hydrogen sulfate | 2 g | S(=O)(=O)(O)[O-].[K+]
solvent | methyl benzoate | 500 ml | C(C1=CC=CC=C1)(=O)OC | C8H8O2
product | Fluorescein | C=1C=CC(=C(C1)C2=C3C=CC(=O)C=C3OC4=C2C=CC(=C4)O)C(=O)O | C20H12O5
